US04710507
A mixture of 4-bromo-2-methylaniline (25 g) and diketene (11.8 cm3) in toluene (100 cm3) was heated with stirring under reflux for 5 hours. On cooling to room temperature the precipitated solid was filtered off and recrystallised from hexane/ethyl acetate to afford N-[4-bromo-2-methylphenyl]-acetoacetamide, m.p. 109° (14.0 g).

reactant | 4-bromo-2-methylaniline | 25 g | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | diketene | 11.8 cm3 | C=C1CC(=O)O1 | C4H4O2
solvent | toluene | 100 cm3 | C1(=CC=CC=C1)C | C7H8
product | N-[4-bromo-2-methylphenyl]-acetoacetamide | BrC1=CC(=C(C=C1)NC(CC(=O)C)=O)C | C11H12BrNO2
